US03989681
Preparation of 1,3-dihydro-7-hydroxyamino-5-phenyl-2H-1,4-benzodiazepin-2-one
A mixture of 16.8 g. of 1,3-dihydro-7-nitro-5-phenyl-2H-1,4-benzodiazepin-2-one, 500 ml. of tetrahydrofuran, 250 ml. of methanol, 56 g. of stannous chloride dihydrate and 68 g. of sodium acetate trihydrate was stirred at room temperature under an atmosphere of nitrogen for 24 hours. 1 l. of tetrahydrofuran and 15 ml. of concentrated ammonia were then added. The inorganic salts were removed by filtration through celite. The filtrate was evaporated. The solid residue was stirred with 100 ml. of methylene chloride and 250 ml. of water for 20 minutes under nitrogen. The insoluble crystals were collected to leave light yellow material. For analysis it was recrystallized from ethanol/methylene chloride, m.p. 186°-187°.

reactant | 1,3-dihydro-7-nitro-5-phenyl-2H-1,4-benzodiazepin-2-one | [N+](=O)([O-])C=1C=CC2=C(C(=NCC(N2)=O)C2=CC=CC=C2)C1 | C15H11N3O3
reactant | sodium acetate trihydrate | O.O.O.C(C)(=O)[O-].[Na+]
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 1,3-dihydro-7-hydroxyamino-5-phenyl-2H-1,4-benzodiazepin-2-one | ONC=1C=CC2=C(C(=NCC(N2)=O)C2=CC=CC=C2)C1 | C15H13N3O2
